US05607952
N-(1-Benzylpiperid-4-yl)-N'-tert-butylthiourea
24.93 g of 4-amino-1-benzylpiperidine are dissolved in 300 ml of dichloromethane and then 16.7 ml of tert-butylisothiocyanate are added dropwise and at room temperature. The reaction mixture is stirred at room temperature for 5 hours and then water is added and the mixture is allowed to settle. The organic phase is separated, dried over sodium sulphate and evaporated. The residue obtained is crystallized from petroleum ether in order to give white crystals which melt at 137° C.; yield: 88%.

reactant | 4-amino-1-benzylpiperidine | 24.93 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | tert-butylisothiocyanate | 16.7 ml | C(C)(C)(C)N=C=S | C5H9NS
reactant | water | O | H2O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | N-(1-Benzylpiperid-4-yl)-N'-tert-butylthiourea | C(C1=CC=CC=C1)N1CCC(CC1)NC(=S)NC(C)(C)C | C17H27N3S
